US07884099B2
Step 2: 7-(3-{[(1-tert-Butoxycarbonyl-piperidin-4-yl)-(2-dimethylamino-ethyl)-amino]-methyl}-pyrrolidin-1-yl)-1-cyclopropyl-6-fluoro-8-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid.
The title compound was prepared by using the same procedure as described for the preparation of 7-[4-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-piperidin-1-yl]-1-cyclopropyl-6-fluoro-8-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid in Example 4, Step 2 except 4-[(2-dimethylamino-ethyl)-pyrrolidin-3-ylmethyl-amino]-piperidine-1-carboxylic acid tert-butyl ester was used in place of 4-(piperidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester. The title compound was obtained as light brown foaming solid. ESI MS m/z 630 (M+H+); 1H NMR (400 MHz, CDCl3) δ 8.74 (s, 1H), 7.76 (d, J=14.1 Hz, 1H), 3.96 (m, 1H), 3.66 (m, 4H), 3.50 (s, 3H), 3.40 (m, 2H), 2.78-2.23 (complex pattern, 8H), 2.20 (s, 3H), 2.18 (s, 3H), 2.07 (m, 1H), 1.93-1.52 (complex pattern, 8H), 1.42 (s, 9H), 1.14 (m, 2H), 0.97 (m, 2H).

reactant | 7-[4-(1-tert-butoxycarbonyl-piperidin-4-ylamino)-piperidin-1-yl]-1-cyclopropyl-6-fluoro-8-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1CCN(CC1)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C29H39FN4O6
reactant | 4-[(2-dimethylamino-ethyl)-pyrrolidin-3-ylmethyl-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1CNCC1)CCN(C)C | C19H38N4O2
product | 7-(3-{[(1-tert-Butoxycarbonyl-piperidin-4-yl)-(2-dimethylamino-ethyl)-amino]-methyl}-pyrrolidin-1-yl)-1-cyclopropyl-6-fluoro-8-methoxy-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CCN(C)C)CC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C33H48FN5O6
